US07432397B2
A solution of cyanogen bromide (1.42 g, 13.4 mmol) in anhydrous diethyl ether (8 mL) was added slowly to a stirred solution of 3-(methylthio)aniline (2.72 mL, 21.4 mmol) in anhydrous diethyl ether at 4° C. After the addition, the reaction mixture was stirred at 24° C. for 12 hours and became a brown solution with a white precipitate. The precipitate was filtered off; the filtrate was washed with aqueous HCl (1 M, 3×15 mL) in ether and the organic layer extracted with brine (10 mL). Then the ether solution was dried over MgSO4, filtered, and concentrated in vacuo to yield a thick liquid. The crude product was further purified by column chromatography (SiO2, a gradient of hexanes/CH2Cl2/EtOAc) to afford 3-(methylthio)phenyl cyanamide (0.7 g, 49% yield) as a white solid: m.p. 64-65° C.;

reactant | cyanogen bromide | 13.4 mmol, 1.42 g | N#CBr | CBrN
reactant | 3-(methylthio)aniline | 21.4 mmol, 2.72 mL | CSC=1C=C(N)C=CC1 | C7H9NS
solvent | diethyl ether | 8 mL | C(C)OCC | C4H10O
product | 3-(methylthio)phenyl cyanamide | 0.7 g, 49% yield | CSC=1C=C(C=CC1)NC#N | C8H8N2S
